US06432993B1
t-Butyl N-methyl-N-[2-nitro-5-(pyridin-2-ylthio)phenyl]carbamate
In a similar manner to that described in Reference Example 6, a reaction was carried out using 2-mercaptopyridine (0.89 g), t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate (2.29 g), sodium hydride (55 wt. %, 0.11 g) and anhydrous N,N-dimethylformamide (40 ml) and the reaction mixture was purified to give the title compound (1.13 g).

reactant | 2-mercaptopyridine | 0.89 g | SC1=NC=CC=C1 | C5H5NS
reactant | t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate | 2.29 g | ClC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C12H15ClN2O4
reactant | sodium hydride | 0.11 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | t-Butyl N-methyl-N-[2-nitro-5-(pyridin-2-ylthio)phenyl]carbamate | 1.13 g | CN(C(OC(C)(C)C)=O)C1=C(C=CC(=C1)SC1=NC=CC=C1)[N+](=O)[O-] | C17H19N3O4S
